* AC loop-gain of one per-FET linear-load channel.
* Method: loop closed at DC through Lbig (1 kH) so the bias point is the true
* closed-loop operating point; AC injected into the buffer side through Cbig.
* T(s) = V(EA)/V(GDRV)  (includes the integrator's inversion).
* Bias: Id = Vset/(Kcs*Rs) = 2.0/(50*1m) = 40 A  -> worst-case-ish gm=72 S.
.include _common.inc

Vset  VSET 0 1.6
Vdut  DUT  0 24
Vcc   VCC  0 15

Xch VSET DUT VCC GATE SRC EA GDRV FB CHANNEL

* DC-closed / AC-open loop break between error-amp out and gate-buffer in
Lbig EA   GDRV 1k
Cbig inj  GDRV 1k
Vinj inj  0    AC 1

.ac dec 60 1 10meg
.probe V(EA) V(GDRV) V(GATE) V(SRC) V(FB)
.backanno
.end
