* IXFN360N10T model validation: transfer curve Id(Vgs) at Vds=10V
* Confirms Vth and gfs=dId/dVgs match the datasheet before loop design.
.include ../models/ixfn360n10t.lib
Vds d 0 10
Vgs g 0 0
M1 d g 0 0 IXFN360N10T
.dc Vgs 3.5 6.5 0.02
.probe I(Vds)
.backanno
.end
